US07265152B2
Preparation of 2-(4-fluoro-phenyl)-5-isopropoxy-6-methylamino-benzofuran-3-carboxylic acid methylamide
6-Amino-2-(4-fluoro-phenyl)-5-isopropoxy-benzofuran-3-carboxylic acid methylamide, prepared according to Example 16 (55 mg, 161 μmol) was dissolved in anhydrous diethyl ether (2 mL). Triethylamine (25 μL, 193 μmol) was added to the reaction mixture, followed by the slow addition of dimethylsulfate (17 μL, 177 μmol). Water (1 mL) was added after 2 hours. The reaction was concentrated to dryness, and the crude product was purified on HPLC (reverse phase) to provide 32 mg (56%) of pure product.

reactant | 6-Amino-2-(4-fluoro-phenyl)-5-isopropoxy-benzofuran-3-carboxylic acid methylamide | CNC(=O)C1=C(OC2=C1C=C(C(=C2)N)OC(C)C)C2=CC=C(C=C2)F | C19H19FN2O3
reactant | Triethylamine | 193 μmol, 25 μL | C(C)N(CC)CC | C6H15N
reactant | dimethylsulfate | 177 μmol, 17 μL | COS(=O)(=O)OC | C2H6O4S
reactant | Water | 1 mL | O | H2O
solvent | diethyl ether | 2 mL | C(C)OCC | C4H10O
product | 2-(4-fluoro-phenyl)-5-isopropoxy-6-methylamino-benzofuran-3-carboxylic acid methylamide | 32 mg, 56% | CNC(=O)C1=C(OC2=C1C=C(C(=C2)NC)OC(C)C)C2=CC=C(C=C2)F | C20H21FN2O3
